Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
R sided weakness, sensory changes
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ is a ___ ___-speaking female with a PMHx 
of
"stroke" ___, does not sound like stroke per description 
below)
and HTN who presents with nightly right-sided weakness and
sensory changes. 

Three months ago, she began to have nightly RUE and RLE plegia,
heaviness, burning, paresthesias, and numbness. The burning,
paresthesias, and numbness extend from her shoulder to her
fingertrips in her right arm (sometimes from her elbow to her
fingertips only) and from her buttocks or hips to her toes in 
her
right leg; they are circumferential. The pain feels as though it
is "inside the arm" rather than outside. Sometimes, in the
morning, her right hand will not feel temperatures. The symptoms
occur every night, are triggered when she lies on her right 
side,
and they begin after she falls asleep. She awakens from sleep
several times a night, and the symptoms persist each time. After
she wakes up in the morning, the symptoms resolve within an hour
around 9am or 10am. She presents to the ED after 3 months of
symptoms because she was new to the country and did not know
where to go to seek help. 

She went to physician with the above sympotms, and she was told
her "blood was not flowing well." The interpreter wondered if 
she
was referring to "thick" blot or "a clot." She was treated with 
a
medication (unknown which), and her symptoms briefly improved.
Also, of note, she moved to ___ from ___ in ___ the
symptoms began after her arrival in the ___. At the time of
interview, she has numbness of the right side but none of the
other reported symptoms. 

Of note, in ___, she had what she refers to as a stroke. The 
day
prior to the event, her stress level was high because she did 
not
have the money to send her kids to school. At 1AM, she develop
generalized weakness and felt heat all over body. She couldn't
get up. Her child ran into the room, and she does not recall 
what
happened for the next two days. She thinks she lost 
consciousness
but denies that she had a seizure. The next thing she remembers
is waking up in a hospital. She was told by the doctors that the
event occurred because she was "thinking too much."

 
Past Medical History:
"Stroke" (Description does not resemble stroke; ?panic attack
?PNES)
HTN
?"blood not flowing well"
tooth pain        
 
Social History:
___
Family History:
NC
 
Physical Exam:
ADMISSION:
General: Awake, cooperative, NAD.
HEENT: NC/AT, no scleral icterus noted, MMM, no lesions noted in
oropharynx
Neck: Supple, no carotid bruits appreciated. No nuchal rigidity
Pulmonary: Lungs CTA bilaterally without R/R/W
Cardiac: RRR, nl. S1S2, no M/R/G noted
Abdomen: soft, NT/ND, normoactive bowel sounds, no masses or
organomegaly noted.
***Extremities: clubbing of LUE fingers
Skin: no rashes or lesions noted.

Neurologic:

-Mental Status: Alert, oriented x ___ (hospital but not ___.
Able to relate history with some difficulty (?due to language
barrier, sometimes answered questions asked with unrelated
answers). Grossly attentive. Normal prosody (assessment limited
by language barrier). No paraphasic errors reported by ___
interpreter. No errors in repetition reported by ___
interpreter. Speech was not dysarthric. Able to follow both
midline and appendicular commands. Speech was not dysarthric.
There was no evidence of apraxia or neglect.

-Cranial Nerves:
II, III, IV, VI:  PERRL 3 to 2mm and brisk. EOMI without
nystagmus. VFF to confrontation. 
V: Facial sensation intact to light touch.
VII: No facial droop, facial musculature symmetric.
VIII: Hearing intact to finger-rub bilaterally.
IX, X: Palate elevates symmetrically.
XI: ___ strength in trapezii and SCM bilaterally.
XII: Tongue protrudes in midline.

-Motor: Normal bulk and tone. No pronation, no drift. No
adventitious movements, such as tremor, noted. No asterixis
noted.  
[___]  
 [C5] [C5] [C7] [C6] [C7]  [T1][L2] [L3] [L5] [L4] [S1][L5]  
 L 5   5    5    5    5     5   5    5    5    5    5   5 
 R 5   5    5    5    5     5   5    5    5    5    5   5

-Sensory: Sensory exam was limited by language barrier despite
interpreter. In particular, patient did not clearly answer
questions about whether sensory loss was the same
anteriorly/posteriorly/laterally/medially except where noted. 
She
also did not seem to answer questions about a gradient (i.e., if
sensory loss changed along a limb). When asked about a sensation
(e.g., LT), she would sometimes refer to "burning," or "warmth"
instead of the sensation in question. 
-->Decreased sensation to LT in RUE (50% compared with left),
medial>lateral. Decreased sensation to LT in RLE (45% compared
with left). RUE cooler than LUE (not a typo) to cool stimulus on
temp testing. No temperature difference in ___. Pinprick intact.
Did not seem to understand proprioception task.

-DTRs:
  Bi Tri ___ Pat Ach
L  2  2    2    2   1
R  2  2    2    2   1
Plantar response was flexor bilaterally.

-Coordination: No intention tremor. No dysmetria on FNF or HKS
bilaterally.

-Gait: Good initiation. Narrow-based, normal stride and arm
swing.  Some difficulty with tandem initially but eventually 
able
to do it. Romberg absent.

DISCHARGE:
Pain in R shoulder and hand with arm elevation. No other 
deficits one xam. 
 
Pertinent Results:
___
1. No acute intracranial abnormality.

___ CTA H&N
No flow-limiting stenosis, thrombosis, aneurysm or dissection.

___ 09:55PM BLOOD WBC-5.6 RBC-4.57 Hgb-13.7 Hct-41.3 MCV-90 
MCH-30.0 MCHC-33.2 RDW-12.3 RDWSD-40.3 Plt ___
___ 09:55PM BLOOD Glucose-98 UreaN-15 Creat-0.8 Na-137 
K-3.9 Cl-102 HCO3-23 AnGap-16
___ 09:55PM BLOOD ALT-12 AST-20 AlkPhos-78 TotBili-0.4
___ 09:55PM BLOOD Lipase-43
___ 09:55PM BLOOD cTropnT-<0.01
___ 09:55PM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Bnzodzp-NEG Barbitr-NEG Tricycl-NEG
___ 09:55PM BLOOD Albumin-4.6 Calcium-10.0 Phos-4.3 Mg-1.9
 
Brief Hospital Course:
Pt presented to hospital with reported R sided weakness, 
parasthesias, and pain. In ED, she was evaluated with ___ 
appearing negative. No significant findings on laboratory 
workup. Upon admission, she indicated that she had shooting pain 
in R hip and R shoulder but no subsequent weakness or sensory 
loss. CTA H&N was performed and showed no vascular 
abnormalities. Due to feeling better, patient was deemed 
clinically stable for discharge from hospital with close follow 
up and outpatient physical therapy.

Transition Issues:
-Pt will need to follow up with PCP in near future for further 
management of suspected arthritis and sciatica
-Pt will need to undergo outpatient physical therapy to assist 
with pain control
-Pt will need to take NSAIDs prn for pain control
 
Medications on Admission:
None
 
Discharge Medications:
1.  Ibuprofen 600 mg PO Q8H:PRN Pain - Mild 
Take every 8 hours as needed for pain control  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Sciatica

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

You were hospitalized at ___ and treated by ___ Neurology 
due to pain and abnormal sensory symptoms in right arm and leg 
concerning for acute neurologic injury. Extensive workup was 
performed in hospital including radiologic imaging, laboratory 
studies and physical examination. At this time, you appear 
clinically stable for discharge from hospital. 
 
Followup Instructions:
___